US06534499B2
3-(1-Pyrrolidinyl) propylamine (Reference Compound 2-1)
N-[3-(1-Pyrrolidinyl) propyl] phthalimide (729 mg) and hydrazine monohydrate (284 mg) were dissolved in methanol (9 ml) and the resulting solution was refluxed with heating for 2 hours. After cooling, the reaction solution was concentrated under reduced pressure followed by addition of a 4N sodium hydroxide aqueous solution to the resulting residue and extraction thereof with chloroform. The resulting organic phase was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (Reference Compound 2-1, 216 mg).

reactant | N-[3-(1-Pyrrolidinyl) propyl] phthalimide | 729 mg | N1(CCCC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H18N2O2
reactant | hydrazine monohydrate | 284 mg | O.NN
solvent | methanol | 9 ml | CO | CH4O
product | 3-(1-Pyrrolidinyl) propylamine | 216 mg | N1(CCCC1)CCCN | C7H16N2
